US05068325
1b) 2-Amino-6-(1,2-dihydronaphthalen-3-yl-methyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine
Prepared from 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine, potassium carbonate and 3-chloromethyl-1,2-dihydronaphthalene (prepared from 1,2-dihydronaphthalene, paraformaldehyde and concentrated hydrochloric acid) in anhydrous dimethylformamide for 2 hours at 50° C. Yield: 29% of theory, Melting point: 158°-160° C. (ethyl acetate).

reactant | 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | NC=1SC=2CCNCCC2N1 | C7H11N3S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chloromethyl-1,2-dihydronaphthalene | ClCC=1CCC2=CC=CC=C2C1 | C11H11Cl
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-Amino-6-(1,2-dihydronaphthalen-3-yl-methyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | Yield: 29% | NC=1SC=2CCN(CCC2N1)CC=1CCC2=CC=CC=C2C1 | C18H21N3S
